US06596747B2
Example 47 Part A. (2-Bromo-benzyl)-methyl-amine
A solution of 2-bromobenzylamine (9 g, 36.1 mmol) in MeOH (60 ml) was added dropwise over 30 min. to a solution of methylamine in MeOH (200 mL of a 2.0 M solution, 0.4 mol). The resulting solution was stirred at rt for 2 h and concentrated. The residue obtained was dissolved in DCM (100 mL) and successively washed with saturated aqueous sodium carbonate, dried over sodium sulphate, and concentrated. The resulting oil was distilled to afford the title compound (7 g, 95%) as a colorless oil (b.p. 110° C. at 0.1 mm Hg, LC/MS retention time=1.22 min.; M+=201.92 Column: Phenominex 4.6 mm×50 mm. Solvent A=10% MeOH, 90% H2O, 10 mM NH4Ac; Solvent B=90% MeOH, 10% H2O, 10 nM NH4Ac, Flow rate: 4 mL/min, Gradient: 0% B-100% B 4 min.).

reactant | 2-bromobenzylamine | 36.1 mmol, 9 g | BrC1=C(CN)C=CC=C1 | C7H8BrN
reactant | methylamine | CN | CH5N
solvent | MeOH | 60 ml | CO | CH4O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | (2-Bromo-benzyl)-methyl-amine | 10 mM, 7 g | BrC1=C(CNC)C=CC=C1 | C8H10BrN
